US07687502B2
1-[3-Fluoro-2-({4-[(1-methyl-1H-pyrazol-3-yl)amino]-quinazolin-6-yl}oxy)phenyl]ethanone
The compound of Example 134 was manufactured by the same method as in Example 95, by a similar method thereto or by a combination of such a method with a conventional method using 1-(2,3-difluoro phenyl)ethanone, 3-amino-1-methyl-1H-pyrazole and 4-chloro-6-hydroxy-quinazoline.

reactant | 1-(2,3-difluoro phenyl)ethanone | FC1=C(C=CC=C1F)C(C)=O | C8H6F2O
reactant | 3-amino-1-methyl-1H-pyrazole | NC1=NN(C=C1)C | C4H7N3
reactant | 4-chloro-6-hydroxy-quinazoline | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
product | 1-[3-Fluoro-2-({4-[(1-methyl-1H-pyrazol-3-yl)amino]-quinazolin-6-yl}oxy)phenyl]ethanone | FC=1C(=C(C=CC1)C(C)=O)OC=1C=C2C(=NC=NC2=CC1)NC1=NN(C=C1)C | C20H16FN5O2
